US04442126
(c) 2-Acetylamino-7-nitro-6-methoxy-1,2,3,4-tetrahydronaphthalene
30 g of 2-acetylamino-6-methoxy-1,2,3,4-tetrahydronaphthalene are introduced in small amounts into 600 ml of nitric acid (d=1.38), the temperature being kept between -5° and -10° C. The reaction has ended when total dissolution has taken place. The solution is then poured into 2 liters of water and ice and the solid is filtered off, washed and dried. This gives a mixture of the two mononitro isomers, the one being nitrated in the 5-position and the other in the 7-position, and of the dinitro compound. They are separated on a silica column with a 99/1 methyl ethyl ketone/methanol mixture. The compound nitrated in the 7-position melts at 175° C.

reactant | 2-acetylamino-6-methoxy-1,2,3,4-tetrahydronaphthalene | 30 g | C(C)(=O)NC1CC2=CC=C(C=C2CC1)OC | C13H17NO2
reactant | nitric acid | 600 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 2 liters | O | H2O
product | 2-Acetylamino-7-nitro-6-methoxy-1,2,3,4-tetrahydronaphthalene | C(C)(=O)NC1CC2=CC(=C(C=C2CC1)OC)[N+](=O)[O-] | C13H16N2O4
